US06087399
A solution of 0.5 g (1.6 mmol) of methyl 5-methanesulfonylamino-7,7-dimethyl-5,6,7,8-tetrahydro-1-naphthalenecarboxylate in 5 ml of DMF was added dropwise to a suspension of 0.05 g (1.8 mmol) of 80 percent sodium hydride in 4 ml of DMF. After stirring at room temperature for 1 hr., 0.23 g (1.6 mmol) of iodomethane was added and the mixture was stirred at room temperature for 4 h. The reaction mixture was completely concentrated in vacuo and the residue was then taken up in EA and water and the organic phase was washed with dilute hydrochloric acid and sodium bicarbonate solution. After drying over magnesium sulfate and concentrating in vacuo; 0.5 g of methyl 5-(methanesulfonyl-methyl-amino)-7,7-dimethyl-5,6,7,8-tetrahydronaphthalene-1-carboxylate was obtained; m.p. 98-99° C.

reactant | methyl 5-methanesulfonylamino-7,7-dimethyl-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 1.6 mmol, 0.5 g | CS(=O)(=O)NC1C=2C=CC=C(C2CC(C1)(C)C)C(=O)OC | C15H21NO4S
reactant | sodium hydride | 1.8 mmol, 0.05 g | [H-].[Na+]
reactant | iodomethane | 1.6 mmol, 0.23 g | IC | CH3I
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | methyl 5-(methanesulfonyl-methyl-amino)-7,7-dimethyl-5,6,7,8-tetrahydronaphthalene-1-carboxylate | 0.5 g | CS(=O)(=O)N(C1C=2C=CC=C(C2CC(C1)(C)C)C(=O)OC)C | C16H23NO4S
